US08202873B2
Combine 1-bromo-2-fluoro-3-trifluoromethylbenzene (0.424 g, 1.77 mmol), 5,5,5′,5′-tetramethyl-[2,2′]bi[1,3,2]dioxaborinanyl] (0.458 g, 2.03 mmol), 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium (0.0632 g, 0.0774 mmol), and potassium acetate (0.499 g, 5.08 mmol) in DMF (10 mL), and purge with nitrogen for 0.5 hr. Heat for 2 hr. at 80° C. and cool to room temperature. Add 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.406 g, 1.36 mmol), sodium carbonate (4.0 mL of a 2M solution in water,) and bis(diphenylphosphino)ferrocene dichloropalladium (0.052 g, 0.0638 mmol). Heat the reaction at 80° C. for 20 hr. Purify by silica gel chromatography, eluting with 5:95 to 40:60 ethyl acetate:hexanes to give the 3′-(2-fluoro-3-trifluoromethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (0.102 g, 18%).

reactant | 1-bromo-2-fluoro-3-trifluoromethylbenzene | 1.77 mmol, 0.424 g | BrC1=C(C(=CC=C1)C(F)(F)F)F | C7H3BrF4
reactant | 5,5,5′,5′-tetramethyl-[2,2′]bi[1,3,2]dioxaborinanyl | CC1(COB(OC1)B1OCC(CO1)(C)C)C | C10H20B2O4
reactant | potassium acetate | 5.08 mmol, 0.499 g | C(C)(=O)[O-].[K+]
reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 1.36 mmol, 0.406 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium | 0.0774 mmol, 0.0632 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium | 0.0638 mmol, 0.052 g | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3′-(2-fluoro-3-trifluoromethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 0.102 g, 18% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=C(C(=CC=C1)C(F)(F)F)F | C20H22F4N4O2
